US08669234B2
Sodium triacetoxyborohydride (5 g, 23.5 mmol) was added to a solution of 2,2-bis(tert-butoxycarbonylamino)-5-oxo-pentanoic acid benzyl ester (3.34 g, 7.9 mmol) and alanine ethyl ester hydrochloride (3.62 g, 23.5 mmol) in dichloromethane (30 mL). After 1 hour saturated ammonium chloride (10 mL) was added and the mixture was stirred for 5 minutes. The aqueous phase was extracted with dichloromethane (2×15 mL), and the combined organic phases were dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The resulting residue was subjected to flash chromatography with eluent of (10% methanol in ethyl acetate) and hexane. The product-containing fractions were combined and the solvent was removed under reduced pressure to provide 2,2-bis(tert-butoxycarbonylamino)-5-(1-ethoxycarbonyl-ethylamino)-pentanoic acid benzyl ester (1.7 g, 3.3 mmol, 41%). C27H42N2O8 calculated 522.3 observed [M+1]+523.3; rt=2.08 min.

reactant | Sodium triacetoxyborohydride | 23.5 mmol, 5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2,2-bis(tert-butoxycarbonylamino)-5-oxo-pentanoic acid benzyl ester | 7.9 mmol, 3.34 g | C(C1=CC=CC=C1)OC(C(CCC=O)(NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C22H32N2O7
reactant | alanine ethyl ester hydrochloride | 23.5 mmol, 3.62 g | Cl.C(C)OC([C@@H](N)C)=O
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2,2-bis(tert-butoxycarbonylamino)-5-(1-ethoxycarbonyl-ethylamino)-pentanoic acid benzyl ester | 3.3 mmol, 1.7 g, 41% | C(C1=CC=CC=C1)OC(C(CCCNC(C)C(=O)OCC)(NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C27H43N3O8
